US05719135
3-[(4-glycoloyloxyphenyl)methylene]-7-azaoxindole
To a stirred solution of 3-(4-hydroxybenzylidene)-7-azaoxindole (2,383 g. 10 mmol) in pyridine (10 ml) was added gradually glycoloyl chloride (0.945 g, 10 mmol) at 0°-5° C. under cooling. The reaction mixture was stirred for about 4 h at 0°-5° C. and then for 15 h at room temperature. The mixture was poured onto an ice-water mixture, the precipitate filtered off, the residue washed thoroughly with water and then chromatographed on silica gel using CHCl3 --MeOH mixtures as eluant. Thus pure title compound was obtained in about 60% yield.

reactant | 3-(4-hydroxybenzylidene)-7-azaoxindole | 10 mmol, 2,383 g | OC1=CC=C(C=C2C(NC3=NC=CC=C23)=O)C=C1 | C14H10N2O2
reactant | glycoloyl chloride | 10 mmol, 0.945 g | C(CO)(=O)Cl | C2H3ClO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-[(4-glycoloyloxyphenyl)methylene]-7-azaoxindole | about 60% yield | C(CO)(=O)OC1=CC=C(C=C1)C=C1C(NC2=NC=CC=C12)=O | C16H12N2O4
